US05292521
7.87 g of N-[2-hydroxy-2-(4-methoxyphenyl)ethyl]-2-(2-chloro-3,4-dimethoxyphenyl)ethylamine was dissolved in 59 ml of CF3COOH. 1.7 ml of concentrated H2SO4 was added to the solution and the reaction was conducted for 4 hours. After the completion of the reaction followed by concentration under reduced pressure, 100 ml of CHCl3 and 50 ml of 10% NaOH were added to the residue to conduct extraction. The extract was washed with water, dehydrated over MgSO4 and concentrated to dryness under reduced pressure to obtain 6.25 g (yield: 83.5%) of 6-chloro-2,3,4,5-tetrahydro-7,8-dimethoxy-1-(4-methoxyphenyl)-1H-3-benzazepine.

reactant | N-[2-hydroxy-2-(4-methoxyphenyl)ethyl]-2-(2-chloro-3,4-dimethoxyphenyl)ethylamine | 7.87 g | OC(CNCCC1=C(C(=C(C=C1)OC)OC)Cl)C1=CC=C(C=C1)OC | C19H24ClNO4
reactant | H2SO4 | 1.7 ml | OS(=O)(=O)O | H2O4S
solvent | CF3COOH | 59 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-chloro-2,3,4,5-tetrahydro-7,8-dimethoxy-1-(4-methoxyphenyl)-1H-3-benzazepine | 6.25 g, yield: 83.5% | ClC1=C(C(=CC=2C(CNCCC21)C2=CC=C(C=C2)OC)OC)OC | C19H22ClNO3
